US06589970B2
Sodium hydride (60% oil disperson; 1.52 g, 38.0 mmol) was added under nitrogen in portions over 5 minutes to a solution of 2-butyl-1H-indole (5.00 g, 28.9 mmol) in 150 mL of anhydrous DMF at room temperature. After the addition the reaction was stirred at room temperature for 1.25 h. Methyl iodide (3.60 mL, 57.8 mmol) was then added and the reaction stirred at room temperature for 3.5 h. 1 N HCl was added to the reaction until the evolution of gas ceased. The reaction was diluted with ethyl acetate, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 2-butyl-1-methyl-1H-indole (5.70 g, 100%) as a yellow oil, MS m/z: 188 [M+H]+.

reactant | Sodium hydride | 38.0 mmol, 1.52 g | [H-].[Na+]
reactant | 2-butyl-1H-indole | 28.9 mmol, 5.00 g | C(CCC)C=1NC2=CC=CC=C2C1 | C12H15N
reactant | Methyl iodide | 57.8 mmol, 3.60 mL | CI | CH3I
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl-1-methyl-1H-indole | 5.70 g, 100% | C(CCC)C=1N(C2=CC=CC=C2C1)C | C13H17N
